US05221671
2-(2-Bromopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine
1.35 g of 2-amino-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine was dissolved in 20 ml of dioxane, to which 0.33 g of pyridine was added, followed by dropping at 0° C. 0.90 g of 2-bromopropionyl bromide. After completion of the reaction, the reaction mixture was charged into water, extracted with dichloromethane and dried with anhydrous magnesium sulfate, after which the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography (elution solvent: dichloromethane:hexane=1:1-1:0), thereby obtaining 1.19 g of the intended compound.

reactant | 2-amino-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 1.35 g | NC1=C(C2=C(CN(CC2)C(=O)OCCC#C)S1)C(C1=C(C=CC=C1)Cl)=O | C19H17ClN2O3S
reactant | pyridine | 0.33 g | N1=CC=CC=C1 | C5H5N
reactant | 2-bromopropionyl bromide | 0.90 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | water | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-(2-Bromopropionylamino)-3-(2-chlorobenzoyl)-6-(3-butynyloxycarbonyl)-4,5,6,7-tetrahydro-thieno[2,3-C]pyridine | 1.19 g | BrC(C(=O)NC1=C(C2=C(CN(CC2)C(=O)OCCC#C)S1)C(C1=C(C=CC=C1)Cl)=O)C | C22H20BrClN2O4S
